*================================================================
* Two-Stage OTA with Constant-gm Bias
* Topology-only HSPICE Netlist (Technology Independent)
* Generated from Cadence Virtuoso Schematic
*----------------------------------------------------------------
* Supply Definition
* VDD = 1.8 V, VSS = 0 V
*----------------------------------------------------------------

VDD  vdd  0   DC 1.8
VSS  vss  0   DC 0


***********************
* Differential Input Pair
***********************
m1  net58 vin  net57 vss n_18_mm  w=4.33e-6 l=1e-6  m=1
m2  net59 vip  net57 vss n_18_mm  w=4.33e-6 l=1e-6  m=1


***********************
* Tail Current & Bias Sink
***********************
m5  net57 net54 vss  vss n_18_mm  w=1e-6    l=1e-6  m=2
m15 net54 net54 vss  vss n_18_mm  w=1e-6    l=1e-6  m=1


***********************
* Constant-gm Bias Chain (NMOS)
***********************
m13 net56 net54 vss  vss n_18_mm  w=1e-6    l=1e-6  m=1
m12 net55 net56 vss  vss n_18_mm  w=370e-9  l=1e-6  m=1
m9  net55 net54 vss  vss n_18_mm  w=1e-6    l=1e-6  m=1


***********************
* Constant-gm Bias Load (PMOS)
***********************
m11 net55 net55 vdd  vdd p_18_mm  w=3e-6    l=1e-6  m=1
m10 net54 net55 net60 net60 p_18_mm  w=3e-6 l=1e-6  m=3


***********************
* Active Load (1st Stage PMOS)
***********************
m3  net58 net58 vdd  vdd p_18_mm  w=4e-6    l=1e-6  m=1
m4  net59 net58 vdd  vdd p_18_mm  w=4e-6    l=1e-6  m=1


***********************
* Second Stage Output Devices
***********************
m6  vout net59 vdd  vdd p_18_mm  w=7.98e-6 l=500e-9 m=4
m7  vout net54 vss  vss n_18_mm  w=5e-6    l=500e-9 m=2


***********************
* Bias Resistor Network
***********************
xr4 net2  net56 vdd rnhr1000_mm  lr=4.3e-6  wr=180e-9
xr3 net1  net2  vdd rnhr1000_mm  lr=4.3e-6  wr=180e-9
xr2 vdd   net1  vdd rnhr1000_mm  lr=4.3e-6  wr=180e-9
xr1 vdd   net60 vdd rnhr1000_mm  lr=5.18e-6 wr=180e-9


***********************
* Miller Compensation Network
***********************
xrz net61 net59 vdd rnhr1000_mm  lr=1.94e-6 wr=180e-9
xcc net61 vout mimcaps_mm       w=20e-6 l=22.18e-6


.END
